US04351833
dl-5-Hydroxy-2-methyl-7-(2-heptyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline
In like manner, 5,7-dihydroxy-4-oxo-1,2,3,4-tetrahydroquinoline converted to dl-5-hydroxy-7-(2-heptyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline, an oil.

reactant | 5,7-dihydroxy-4-oxo-1,2,3,4-tetrahydroquinoline | OC1=C2C(CCNC2=CC(=C1)O)=O | C9H9NO3
reactant | dl-5 hydroxy-7-(2-heptyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ON1CCC(C2=CC=C(C=C12)OC(C)CCCCC)=O
product | dl-5 Hydroxy-2-methyl-7-(2-heptyloxy)-4-oxo-1,2,3,4-tetrahydroquinoline | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ON1C(CC(C2=CC=C(C=C12)OC(C)CCCCC)=O)C | InChI=1S/C18H34N4O2.C17H25NO3/c1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19;1-4-5-6-7-13(3)21-14-8-9-15-16(11-14)18(20)12(2)10-17(15)19/h6-7,14,20-23H,2-5,8-13,15,19H2,1H3;8-9,11-13,20H,4-7,10H2,1-3H3
